US04010177
A solution of 1,3-dihydro-7-chloro-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione (9.63 g., 0.03 mole) and hydroxy-acetic acid hydrazide (6.66 g.) in n-butyl alcohol (300 ml.) is refluxed for about 15 hours with a slow stream of nitrogen bubbling through the reaction mixture for the first hour. The mixture is then cooled and concentrated in vacuo and the resulting residue is suspended in water, treated with a little ether and crystallized. The solid is collected by filtration and dried in vacuo. Recrystallization of this material from methylene chloride-methanol gives 8-chloro-1-(hydroxymethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in three crops: 4.96 g. of melting point 239°-241° C., 1.58 g. of melting point 236°-239° C., and 0.365 g. of melting point 232°-236° C. The analytical sample has a melting point of 239.5°-241° C. Anal. calcd. for C17H12Cl2N4O: C, 56.84; H, 3.37; Cl, 19.74; N, 15.60. Found: C, 56.27; H, 3.28; Cl, 19.75; N, 15.55. Preparation 2 8-Chloro-1-(hydroxymethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 1,3-dihydro-7-chloro-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione | 0.03 mole, 9.63 g | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=C(C=CC=C2)Cl)C1 | C15H10Cl2N2S
reactant | hydroxy-acetic acid hydrazide | 6.66 g | OCC(=O)NN | C2H6N2O2
solvent | n-butyl alcohol | 300 ml | C(CCC)O | C4H10O
product | 8-chloro-1-(hydroxymethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CO)C3=C(C=CC=C3)Cl)C1 | C17H12Cl2N4O
